US06756498B2
ii) 2-(4-Fluorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine
To a suspension of 1-(4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime (189 g, 630 mmol) in DME (700 ml) at −3° C. was added methanesulfonyl chloride (50.5 ml, 650 mmol) and the mixture stirred for 15 minutes. Triethylamine (182 ml, 1.31 mol) in DME (74 ml) was then added dropwise over 15 min. After the addition was complete, the reaction was then warmed to 35° C. for 45 minutes. It was then cooled and filtered, washing with DME (180 ml). To the filtrate was added iron (II) chloride (0.87 g) and the mixture was then heated to 75° C. for 2.5 hour then allowed to cool. Water (700 ml) was added, the resulting solid removed by filtration, washed with water and dried. This solid was dissolved in dichloromethane (1.5 l) and purified in two portions by Biotage chromatography eluting with hexane-ethyl acetate (3:1). Combination and concentration of the appropriate fractions gave 148.3 g (84%) of the title compound.

reactant | 1-(4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime | 630 mmol, 189 g | FC1=CC=C(C=C1)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H10F4N2O
reactant | methanesulfonyl chloride | 650 mmol, 50.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 1.31 mol, 182 ml | C(C)N(CC)CC | C6H15N
solvent | DME | 700 ml | COCCOC | C4H10O2
solvent | DME | 74 ml | COCCOC | C4H10O2
product | 2-(4-Fluorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine | 148.3 g, 84% | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1 | C14H8F4N2
